US03946009
A suspension of 0.1 mole of sodium phenoxide and 0.1 mole of 2-amino-3-morpholino-5-bromopyrazine is refluxed 10-20 hours. The cooled mixture is extracted with diethyl ether, washed with cold 2N sodium hydroxide solution, dried and evaporated to give 2-amino-3-morpholino-5-phenoxypyrazine.

reactant | sodium phenoxide | 0.1 mole | [O-]C1=CC=CC=C1.[Na+]
reactant | 2-amino-3-morpholino-5-bromopyrazine | 0.1 mole | NC1=NC=C(N=C1N1CCOCC1)Br | C8H11BrN4O
product | 2-amino-3-morpholino-5-phenoxypyrazine | NC1=NC=C(N=C1N1CCOCC1)OC1=CC=CC=C1 | C14H16N4O2
